US05130309
1-(1-methylethyl)-2-[4-(phenoxy)phenoxymethyl]azetidine
The title compound is prepared from 1-(1-methylethyl)-2-azetidinemethanol and 4-phenoxyphenol according to the procedures of Example 8.

reactant | 1-(1-methylethyl)-2-azetidinemethanol | CC(C)N1C(CC1)CO | C7H15NO
reactant | 4-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
product | 1-(1-methylethyl)-2-[4-(phenoxy)phenoxymethyl]azetidine | CC(C)N1C(CC1)COC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H23NO2
